Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain and constipation
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Mr. ___ is a ___ with HTN, HLD, OSA on
CPAP who presented with 4 days of abdominal pain, nausea, 
vomiting, and initial diarrhea.  He was in ___, ___ on 
___ with his family and they ate a pork roast, then four 
hours later all of them were "violently ill."  He describes 
having nausea and 4 episodes of vomiting on ___ and 
liquid, non-bloody diarrhea on ___.  He developed abdominal 
pain and distention on ___ and had a lot of gas, but was not 
having bowel movements.  He tried eating soup, but this 
increased his pain.  Yesterday he had increased abdominal 
bloating and distention, worsened by eating (ate pizza, 
sandwich), and still had no bowel movements.  He came to the ED 
because he was worried he might have an obstruction.

In the ED, he was afebrile with Tmax 98.2F, HR in ___, BP 
179/76 --> 148/80, RR ___, O2 saturation of 98% on room air.  
He received IV morphine 4mg, IV NS 1L.  Labs were notable for 
WBC 11.4, normal BMP, lactate 1.2, negative UA.  CT 
abdomen/pelvis showed multiple dilated fluid-filled small bowel 
loops without abrupt transition point and fluid-filled distal 
ileum, may represent ileus, gastroenteritis, early or partial 
SBO is not excluded.  

On arrival to the floor, he reports ongoing RLQ abdominal pain 
and bloating.  He has had no nausea since yesterday morning and 
no vomiting since ___.  His last bowel movement was 
___.  He denies recent fevers, dyspnea, changes in 
urination.  His other family members have completely recovered.  
He has not been able to take his home medications in ___ days.  
He has no history of prior abdominal surgeries.

 
Past Medical History:
HYPERTENSION                                                    
HLD                                                             
OSA     
 
Social History:
___
Family History:
Family History (Last Verified ___ by ___, 
MD):
Relative Status   Age Problem              Onset Comments       
Mother   ___     CONGESTIVE HEART                          
                      FAILURE                                   

Father   ___     CAROTID                    Father fell and
                      ___             hit his head,  
                                                 ___ the    
                                                 hospital.  
 
Physical Exam:
GENERAL: Alert and in no apparent distress, laying in bed, 
appears comfortable, conversant
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma.  
Oropharynx without visible lesion, erythema or exudate. Moist 
mucus membranes.
CV: Heart regular, no murmur, no S3, no S4. 2+ radial pulses 
bilaterally.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored on room air.
GI: Abdomen soft, moderately distended, obese, mildly tender on 
right side.  Bowel sounds present. 
GU: No suprapubic fullness or tenderness to palpation, no Foley
MSK: Moves all extremities, no swelling or edema
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, speech fluent, moves all 
limbs
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 08:19PM BLOOD WBC-11.4* RBC-5.22 Hgb-15.8 Hct-47.1 
MCV-90 MCH-30.3 MCHC-33.5 RDW-14.0 RDWSD-46.3 Plt ___
___ 06:20AM BLOOD WBC-11.0* RBC-4.92 Hgb-14.6 Hct-44.7 
MCV-91 MCH-29.7 MCHC-32.7 RDW-13.7 RDWSD-46.0 Plt ___

CT abdomen/pelvis with contrast ___:
1. Multiple loops of dilated fluid-filled small bowel measuring 
up to 4.5 cm without abrupt transition point.  There is 
associated mesenteric free fluid and numerous conspicuous lymph 
nodes.  While there are loops of decompressed bowel in the right 
lower quadrant, the distal ileum is fluid filled and 
non-distended.  This constellation of findings may represent 
ileus,
gastroenteritis and early or partial small bowel obstruction is 
not excluded.
2. Hepatic steatosis.

 
Brief Hospital Course:
___ with HTN, HLD, OSA on CPAP who initially developed nausea, 
vomiting, and diarrhea 4 days ago after eating pork.  These 
symptoms had resolved, but he developed abdominal pain and 
distention, worsened by eating and drinking, and had not had a 
bowel movement for over 3 days.  CT abdomen showed findings 
concerning for ileus but was not suggestive of mechanical 
obstruction. 

# Ileus: Secondary to initial gastroenteritis given history of 
onset shortly after meal and multiple family members with the 
same symptoms.  He had mild leukocytosis without fever.  After 
resting his bowels, his pain improved. He was able to advance 
his diet and had two bowel movements. He has also been passing 
gas. Return precautions were discussed

# ___ sleep apnea: On nocturnal CPAP at home.
- Nocturnal CPAP

# HTN: 
- Home HCTZ 

# HLD:
- Home Pravastatin 20mg daily

# Hepatic steatosis:  This was noted on CT abdomen. He has 
infrequent ETOH use.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 20 mg PO QPM 
2. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Hydrochlorothiazide 12.5 mg PO DAILY  
2.  Pravastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ileus
Gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ with trouble moving your bowels. This 
was most likely from an ileus (shock, non-moving bowel) which 
occurred because of the stomach bug you picked up. Eat bland 
food for now. If you start experiencing worsening pain or 
troubles with bowel movements/passing gas again, plus seek 
medical care.
 
Followup Instructions:
___